US05998436
Synthesis of ethyl 8-chloro-1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 18 ml of chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate prepared from 2.52 g of ethyl 3-chloro-2,4,5-trifluorobenzoylacetate by normal process was added 2.65 g of 2-amino-3,5-difluoro-6-(p-methoxybenzylamino)pyridine. The solution was concentrated under reduced pressure, and to the residue were added 2.5 g of anhydrous potassium carbonate and 6 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 15 minutes and allowed to cool. The solution was separated by adding 50 ml of chloroform and 500 ml of distilled water, and the chloroform layer was washed twice with 500 ml of distilled water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and allowed to stand. The precipitate was dispersed in ethanol, collected by filtration, and washed with ethanol to obtain 3.20 g of the title compound as a yellow powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 2.52 g | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
reactant | 2-amino-3,5-difluoro-6-(p-methoxybenzylamino)pyridine | 2.65 g | NC1=NC(=C(C=C1F)F)NCC1=CC=C(C=C1)OC | C13H13F2N3O
solvent | chloroform | 18 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 8-chloro-1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 3.20 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NCC1=CC=C(C=C1)OC)C(=O)OCC)=O)F)F | C25H18ClF4N3O4
